US07592373B2
1.24.a. 1-(4-iodobenzyl)-4-pyrrolidin-1-ylpiperidine
Prepared analogously to Example 1.1.c. from 4-iodobenzyl bromide and 4-pyrrolidin-1-ylpiperidine. Yield: 0.57 g (51% of theory); C16H23IN2 (M=370.28); calc.: molecular ion peak (M+H)+: 371; found: molecular ion peak (M+H)+: 371; Rf value: 0.3 (silica gel, dichloromethane/ethanol (20:1)).

reactant | 4-iodobenzyl bromide | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | 4-pyrrolidin-1-ylpiperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-(4-iodobenzyl)-4-pyrrolidin-1-ylpiperidine | IC1=CC=C(CN2CCC(CC2)N2CCCC2)C=C1 | C16H23IN2
